US06911463B2
To a solution of trifluoro-methanesulfonic acid 3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl ester (262 mg, 0.600 mmol) in dimethylformamide (3.5 mL) is added triethylamine (0.11 mL, 0.780 mmol), tetrakis(triphenylphosphine)-palladium (28 mg, 0.0240 mmol) and 2,4-bistrifluoromethylbenzeneboronic acid (201 mg, 0.780 mmol). The mixture is heated to 100° C. for 20 hours, then cooled, diluted with brine and ethyl acetate. The organics are washed seven times with brine then dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The residue is purified using silica gel chromatography (hexane/20% ethyl acetate, hexane gradient elution) to give 268 mg of {2-[7-(2,4-Bis-trifluoromethyl-phenyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (89%). FDMS m/e=501 (M++1). The title amine is prepared from {2-[7-(2,4-Bis-trifluoromethyl-phenyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester as described above for Amine 1 (208 mg, 100%). FDMS m/e=401 (M++1).

reactant | trifluoro-methanesulfonic acid 3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl ester | 0.600 mmol, 262 mg | C(C)(C)(C)OC(=O)NC(CC1=CNC2=C(C=CC=C12)OS(=O)(=O)C(F)(F)F)(C)C | C18H23F3N2O5S
reactant | triethylamine | 0.780 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-bistrifluoromethylbenzeneboronic acid | 0.780 mmol, 201 mg | FC(C1=C(C=CC(=C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
solvent | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.0240 mmol, 28 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | {2-[7-(2,4-Bis-trifluoromethyl-phenyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 268 mg, 89% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F)(C)C)=O | C25H26F6N2O2
